US06194454B1
N-[3-Cyano-4-(4-hydroxy-3-isopropyl-phenoxy)-5-methyl-phenyl]-oxamic acid
A solution of N-[3-cyano-4-(4-hydroxy-3-isopropyl-phenoxy)-5-methyl-phenyl]-oxamic acid ethyl ester (110 mg) and 1N aqueous sodium hydroxide (0.6 mL) in EtOH (1 mL) was stirred at ambient temperature for 10 min, partitioned between ethyl acetate/1N aqueous hydrochloric acid, the organic layer washed with brine, dried over sodium sulfate and concentrated in vacuo to afford the title compound as a colorless solid (9 mg). MS: 353.

reactant | N-[3-cyano-4-(4-hydroxy-3-isopropyl-phenoxy)-5-methyl-phenyl]-oxamic acid ethyl ester | 110 mg | C(C)OC(C(=O)NC1=CC(=C(C(=C1)C)OC1=CC(=C(C=C1)O)C(C)C)C#N)=O | C21H22N2O5
reactant | sodium hydroxide | 1N, 0.6 mL | [OH-].[Na+]
solvent | EtOH | 1 mL | CCO | C2H6O
product | N-[3-Cyano-4-(4-hydroxy-3-isopropyl-phenoxy)-5-methyl-phenyl]-oxamic acid | 9 mg | C(#N)C=1C=C(C=C(C1OC1=CC(=C(C=C1)O)C(C)C)C)NC(C(=O)O)=O | C19H18N2O5
